US09023858B2
C) 2-ethoxy-8-(2-methoxyethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one
To a solution of 2-methoxyethanol (0.019 ml) in N,N-dimethylformamide (3 ml) was added sodium hydride (60% in oil, 9 mg) at room temperature, and the mixture was stirred for 30 min. 8-Chloro-2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one (80 mg) was added to reaction mixture, and the mixture was stirred at 60° C., for 5 hr, and allowed to be cooled to room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane). The obtained residue was suspended in a mixed solvent of ethyl acetate/hexane, and the resulting solid was collected by filtration to give the title compound (21 mg).

reactant | 2-methoxyethanol | 0.019 ml | COCCO | C3H8O2
reactant | sodium hydride | 9 mg | [H-].[Na+]
reactant | 8-Chloro-2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one | 80 mg | ClC1=NC=CC2=C1N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)OCC | C17H13ClF3N3O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-ethoxy-8-(2-methoxyethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one | 21 mg | C(C)OC=1N(C(C2=C(N1)C(=NC=C2)OCCOC)=O)C2=CC=C(C=C2)OCC(F)(F)F | C20H20F3N3O5
